US06515011B2
DPPA (0.442 mL, 2.05 mmol) followed by DBU (0.306 mL, 2.05 mmol) were added to a stirred solution of 5-chloro-2-iodobenzyl alcohol (500 mg, 1.86 mmol) in DMF (10 mL) at 0° C. and the reaction mixture was warmed to room temperature. After 16 h the mixture was warmed to 70° C. for 2 hr. The reaction was then concentrated and the residue was partitioned between EtOAc and 10% NaHCO3. The organic layer was washed with water and brine, dried (Na2SO4) and evaporated to give 5-chloro-2-iodobenzylazide (588 mg): 1H NMR (CDCl3, 400 MHz) δ 4.43 (s, 2H), 7.03 (dd, J=2.6, 8.4 Hz, 1H), 7.39 (d, J=2.6, 1H), 7.78 (d, J=8.4 Hz, 1H).

reactant | DPPA | 2.05 mmol, 0.442 mL | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
reactant | DBU | 2.05 mmol, 0.306 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | 5-chloro-2-iodobenzyl alcohol | 1.86 mmol, 500 mg | ClC=1C=CC(=C(CO)C1)I | C7H6ClIO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 5-chloro-2-iodobenzylazide | 588 mg | ClC=1C=CC(=C(CN=[N+]=[N-])C1)I | C7H5ClIN3
